US05128448
A stirring solution of (E)-3-[4-(1,1-dimethylethyl)phenyl]-2-propenoic acid phenylmethyl ester (2.04 g, 6.93 mmol) in 136 mL of abs. EtOH in the presence of 377 mg of 10% Pd/C was hydrogenated at room temperature at atmospheric pressure. After removing the catalyst by filtration through a pad of celite, the filtrate was concentrated to give 4-(1,1-dimethylethyl)benzenepropanoic acid, (1.39 g, 6.74 mmol) in 97% yield, m.p. 110°-113° C.

reactant | (E)-3-[4-(1,1-dimethylethyl)phenyl]-2-propenoic acid phenylmethyl ester | 6.93 mmol, 2.04 g | C1(=CC=CC=C1)COC(\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C20H22O2
catalyst | Pd/C | 377 mg | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 4-(1,1-dimethylethyl)benzenepropanoic acid | 6.74 mmol, 1.39 g, 97% yield | CC(C)(C)C1=CC=C(C=C1)CCC(=O)O | C13H18O2
